US06846835B2
Piperidin-4-ylmethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate
Using (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)acetic acid and N-t-butoxycarbonyl-4-piperidine-methanol, the title compound was prepared by a method similar to Steps 2 and 3 of Referential Example 12.

reactant | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)acetic acid | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=C(C=C1)Cl)O)F | C13H13ClF2O3
reactant | N-t-butoxycarbonyl-4-piperidine-methanol | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
product | Piperidin-4-ylmethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-chlorophenyl)ethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OCC1CCNCC1)(C1=CC=C(C=C1)Cl)O)F | C19H24ClF2NO3
